US04975462
βMethoxy-β-oxo-α-(4-trifluoromethylphenyl)carbamoylpropionitrile
The anion of methyl cyanoacetate (2.20 g, 22.2 mmoles) was made at 0° C. using sodium hydride (0.8 g, 22 mmoles) in 70 ml of THF and treated dropwise with 4-trifluoromethylphenyl isocyanate (4.1 g, 22 mmoles). After one hour at 0° C. the solvent was removed and the residue was partitioned between 1N HCl and ethyl acetate. The organic layer was washed with brine, dried and partially concentrated in vacuo to precipitate the title compound (3.8 g) as a white solid, mp 186°-189° C.

reactant | methyl cyanoacetate | 22.2 mmoles, 2.20 g | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium hydride | 22 mmoles, 0.8 g | [H-].[Na+]
reactant | 4-trifluoromethylphenyl isocyanate | 22 mmoles, 4.1 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | βMethoxy-β-oxo-α-(4-trifluoromethylphenyl)carbamoylpropionitrile | COC(C(C#N)C(NC1=CC=C(C=C1)C(F)(F)F)=O)=O | C12H9F3N2O3
